US07132436B2
3-Chloro-N-[4-(4-methoxyphenyl)-1,3-thiazol-2-yl]-2-methylbenzenesulfonamide
The title compound was prepared from 4-(4-methoxy-phenyl)-thiazol-2-ylamine and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (58.0 mg) with purity >90%. MS (pos) m/z 395.2.

reactant | 4-(4-methoxy-phenyl)-thiazol-2-ylamine | COC1=CC=C(C=C1)C=1N=C(SC1)N | C10H10N2OS
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-[4-(4-methoxyphenyl)-1,3-thiazol-2-yl]-2-methylbenzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)OC)C | C17H15ClN2O3S2
